US08420863B2
Reduction of 3-(3-bromo-5-methylphenyl)-3-hydroxypropanenitrile using borane methyl sulfide following the method used in Example 79 gave 3-amino-1-(3-bromo-5-methylphenyl)propan-1-ol which was used directly in the next step.

reactant | 3-(3-bromo-5-methylphenyl)-3-hydroxypropanenitrile | BrC=1C=C(C=C(C1)C)C(CC#N)O | C10H10BrNO
reactant | borane methyl sulfide | CSC.B
product | 3-amino-1-(3-bromo-5-methylphenyl)propan-1-ol | NCCC(O)C1=CC(=CC(=C1)C)Br | C10H14BrNO
